US09278950B2
Step 3. Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-1,6-naphthyridine-2-carboxylate
To a solution of ethyl 3-amino-7-bromo-1,6-naphthyridine-2-carboxylate (47 mg, 0.16 mmol) and DIPEA (83 μL, 0.48 mmol) in DCM (1.5 mL), a solution of benzyl chloroformate (68 μL, 0.48 mmol) was added and the resulting mixture was heated at 60° C. in a sealed vial for 14 h. The crude reaction mixture was then concentrated under reduced pressure and the residue was purified by flash chromatography (24 g silica gel column, eluting with 0-60% EtOAc/hexanes) to afford the sub-title compound (41 mg, 60%). LCMS (ESI) calc. for C19H17BrN3O4[M+H]+: m/z=430.0. found: 429.9.

reactant | ethyl 3-amino-7-bromo-1,6-naphthyridine-2-carboxylate | 0.16 mmol, 47 mg | NC=1C(=NC2=CC(=NC=C2C1)Br)C(=O)OCC | C11H10BrN3O2
reactant | DIPEA | 0.48 mmol, 83 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.48 mmol, 68 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-1,6-naphthyridine-2-carboxylate | 41 mg, 60% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=NC=C2C1)Br)C(=O)OCC | C19H16BrN3O4
